US05068415
the 1,4-diiodo-1,1,2,2-tetrafluorobutane reacting with at least a stoichiometric amount of potassium hydroxide or sodium hydroxide in the form of an approximately 10 to 60% strength by weight aqueous solution at a temperature of 20° to 100° C. and in the presence of a phase transfer catalyst in an amount of 0.1 to 5 mol %, relative to the amount of 1,4-diiodo-1,1,2,2-tetrafluorobutane, to eliminate hydrogen iodide, and isolating 1-iodo-1,1,2,2-tetrafluoro-3-butene from this reaction product,

reactant | 1,4-diiodo-1,1,2,2-tetrafluorobutane | IC(C(CCI)(F)F)(F)F | C4H4F4I2
reactant | potassium hydroxide | [OH-].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen iodide | I | HI
product | 1-iodo-1,1,2,2-tetrafluoro-3-butene | IC(C(C=C)(F)F)(F)F | C4H3F4I
